US09169261B2
To a slurry of 2-(trichloroacetyl)pyrrole (380 mg, 1.79 mmol) and K2CO3 (780 mg, 5.7 mmol) in 5 mL acetone was added a solution of 1-bromo-2-butanone (400 mg, 2.7 mmol) in 2 mL acetone. The mixture was stirred for 19 hours at room temperature before filtering and concentrating under reduced pressure to obtain 3-ethyl-1H-pyrrolo[2,1-c][1,4]oxazin-1-one (298 mg, quantitative), which was used in the following step without purification.

reactant | 2-(trichloroacetyl)pyrrole | 1.79 mmol, 380 mg | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | K2CO3 | 5.7 mmol, 780 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-butanone | 2.7 mmol, 400 mg | BrCC(CC)=O | C4H7BrO
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 3-ethyl-1H-pyrrolo[2,1-c][1,4]oxazin-1-one | 298 mg | C(C)C1=CN2C(C(O1)=O)=CC=C2 | C9H9NO2
